US07981914B2
2′-Methoxy-5-tetrazol-1-yl-biphenyl-3-carboxylic acid 0.9 g, 3 mmol), 2-(3-methoxy-phenyl)-ethylamine (0.5 mL), EDCI (0.6 g), HOBt (0.4 g) were added to methylene chloride (9 mL), and the reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was partitioned between 1N aqueous HCl and EtOAc, and the combined organic layers were washed with water, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (3-20%, 5% NH4OH in MeOH/methylene chloride) to give 1.5 g of 2′-methoxy-5-tetrazol-1-yl-biphenyl-3-carboxylic acid[2-(3-methoxy-phenyl)-ethyl]-amide as a white solid, MS (M+H)=430.

reactant | 2′-Methoxy-5-tetrazol-1-yl-biphenyl-3-carboxylic acid | 3 mmol, 0.9 g | COC1=C(C=CC=C1)C1=CC(=CC(=C1)N1N=NN=C1)C(=O)O | C15H12N4O3
reactant | 2-(3-methoxy-phenyl)-ethylamine | 0.5 mL | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | EDCI | 0.6 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | methylene chloride | 9 mL | C(Cl)Cl | CH2Cl2
product | 2′-methoxy-5-tetrazol-1-yl-biphenyl-3-carboxylic acid[2-(3-methoxy-phenyl)-ethyl]-amide | 1.5 g | COC=1C=C(C=CC1)CCNC(=O)C=1C=C(C=C(C1)N1N=NN=C1)C1=C(C=CC=C1)OC | C24H23N5O3
